US05652239
9-Bromopyridazino[4,5-b]indole-1,4-dione
To a stirred solution of diethyl 4-bromoindole-2,3-dicarboxylate (0.4 g, 1.2 mM) in ethanol (3 mL) was added hydrazine hydrate (2.0 mL, 40 mM). The mixture was heated to reflux for 2 hours, cooled to room temperature, and the resulting solid was filtered. This was then suspended in glacial acetic acid (3 mL), heated to reflux for several minutes, and cooled to room temperature. The solid was then filtered and dried. This afforded the titled compound as a white solid (0.3 g, 88%), mp >260° C. NMR (d6 -DMSO): 12.8 (br s, 1H), 11.52 (br s, 2H), 7.60 (d, J=8 Hz, 1H), 7.52 (d, J=8 Hz, 1H), 7.52 (d, J=8 Hz, 1H), 7.32 (t, J=8 Hz, 1H). MS(CI): 280(M+1).

reactant | diethyl 4-bromoindole-2,3-dicarboxylate | 1.2 mM, 0.4 g | BrC1=C2C(=C(NC2=CC=C1)C(=O)OCC)C(=O)OCC | C14H14BrNO4
reactant | hydrazine hydrate | 40 mM, 2.0 mL | O.NN
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 9-Bromopyridazino[4,5-b]indole-1,4-dione | 0.3 g, 88% | BrC=1C=2C3=C(NC2C=CC1)C(N=NC3=O)=O | C10H4BrN3O2
